datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O]C([H])C(CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C([H])C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[O:10]([K])C(C)/C(C)=C([C:20](OCC)=[O:21])/C>>[O-:21][C:20]1(OCC)[O+:10]([K])C(C)C(C)=C1C 10=20;20,21=21"
"[H][S+:10](C(C)C(CC)[O]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(CC)[O][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[O:10]([K])C(CC)C([H])C([H])C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C([H])C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OCCCCCC)C1=CC=CC=C1.[O-:21]C>>C1=CC=CC=C1N([C:20]([O-:10])(OCCCCCC)[O:21]C)C1=CC=CC=C1 21=20;20,10=10"
"[OH:10]C(CCC)C([H])C(O)C(C)[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C(C)C(O)C([H])C(CCC)[OH+:10]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C([O-:21])[H])CC)CCCCCC>>CN([C:20]1(OC(C([O:21]1)[H])CC)[O-:10])CCCCCC 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C)CC>>CCC1C(C(O[C:20](=[O:10])N1CC)C)CC.[O-:21]C 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[S]CC.[Cl-]>>[Cl-].CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[S]CC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([O:21]C)([S]C)[O]CC.[Cl-]>>[Cl-].CC[O:10][H].C[O+:21]=[C:20]([S]C)[O]CC 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[Na][O:21]CC.[C:20](=[O:10])(OC)OC>>[Na][O+:21]([C:20]([O-:10])(OC)OC)CC 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C)[S]2.[H][S:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1C)C)CC.[O-:21]C>>CC1C(C(O[C:20](N1C)([O-:10])[O:21]C)C)CC 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)CC)CC>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)CC)[O-:10])CC 21=20;20,10=10"
"[H][O:10]C([H])C(C)[O][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[O]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"CCCCCCC1C(O[C:20](N1[H])([O-:10])[O:21][H])CC>>CCCCCCC1C(O[C:20](=[O:10])N1[H])CC.[O-:21][H] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O+:10]([Na])C([H])C(C)C1C>>[O:10]([Na])C([H])C(C)C([C:20](OCC)=[O:21])C 21=20;20,10=10"
"[OH:21][C:20]1(C)C(O)C([H])C([H])C(CC)[OH+:10]1>>[OH:10]C(CC)C([H])C([H])C(O)[C:20](C)=[OH+:21] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21][H])[O]C([H])C(CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C([H])C(CC)[NH]2.C[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](CC)[O]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(C)[O][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"[O:10]([Na])C([H])C([H])C([H])C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C([H])C([H])C([H])[O+:10]1([Na]) 10=20;20,21=21"
"[H]N([C:20]1(OC(C([O:21]1)[H])CC)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C([O-:21])[H])CC)CCCCCC 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CCCCCC)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CCCCCC)CCCCCC 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C([H])C([H])[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[O]C([H])C([H])[S]1 10=20;20,21=21"
"CCN([C:20]([O-:10])(O[H])[O:21][H])C>>CCN([C:20](=[O:10])O[H])C.[O-:21][H] 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)C)CC)CC)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])C)CC)CC)C 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C(C)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH](C)[S]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)C)CCCCCC)[O-:10])C1=CC=CC=C1>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)C)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
